US07585886B2
A 8.0 ml THF solution of 124 mg of tert-butyl [(1R)-1-(1-naphthyl)ethyl](pyrrolidin-3-ylmethyl)carbamate was mixed with 45 μl of benzoyl chloride and stirred overnight at room temperature. A 20 ml portion of saturated sodium bicarbonate aqueous solution was added thereto, and the solvent was evaporated. This was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate, and the solvent was evaporated. The thus obtained residue was treated with 4 M hydrogen chloride/ethyl acetate and recrystallized from isopropanol-diethyl ether to obtain 100 mg of (1R)—N-[(1-benzoylpyrrolidin-3-yl)methyl]-1-(1-naphthyl)ethanamine hydrochloride as colorless crystals.

reactant | tert-butyl [(1R)-1-(1-naphthyl)ethyl](pyrrolidin-3-ylmethyl)carbamate | 124 mg | C1(=CC=CC2=CC=CC=C12)[C@@H](C)N(C(OC(C)(C)C)=O)CC1CNCC1 | C22H30N2O2
reactant | benzoyl chloride | 45 μl | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 8.0 ml | C1CCOC1 | C4H8O
product | (1R)—N-[(1-benzoylpyrrolidin-3-yl)methyl]-1-(1-naphthyl)ethanamine hydrochloride | 100 mg | Cl.C(C1=CC=CC=C1)(=O)N1CC(CC1)CN[C@H](C)C1=CC=CC2=CC=CC=C12 | InChI=1S/C24H26N2O.ClH/c1-18(22-13-7-11-20-8-5-6-12-23(20)22)25-16-19-14-15-26(17-19)24(27)21-9-3-2-4-10-21;/h2-13,18-19,25H,14-17H2,1H3;1H/t18-,19?;/m1./s1
